US04409018
2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-methoxycarbonylthio-1H-isoindol-1-one
In 20 ml of pyridine was dissolved 3.0 g of 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one, and 1.5 g of methyl chloroformate was added to the solution with stirring with cooling at 5° to 10° C. over a period of 20 minutes. After stirring was effected at the same temperature for 2 hours and then at room temperature for 1 hour, the reaction solution was treated with water, and extracted with dichloromethane, followed by washing with dilute hydrochloric acid and water, successively, and drying over anhydrous sodium sulfate. The dichloromethane was distilled off under reduced pressure, and the residual, oily substance was purified by means of column chromatography with the use of silica gel (developing solvent of acetone-hexane), thereby producing 3.0 g (yield of 84%) of the subject compound in white crystals, m.p. 80°-81° C.

reactant | 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one | 3.0 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13ClFNOS
reactant | methyl chloroformate | 1.5 g | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-methoxycarbonylthio-1H-isoindol-1-one | 3.0 g, yield of 84% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1SC(=O)OC)=O)F | C16H15ClFNO3S
